* c:\users\lenovo\esim-workspace\esim_2\esim_2.cir

v2  in2 earth pulse(0 10 10u 10u 10u 1m 1)
v1  in1 earth pulse(0 10 10u 10u 10u 10m 20m)
r1  out1 earth esim_r
r2  out2 earth esim_r
r3  out3 earth esim_r
r4  out4 earth esim_r
* u7  out1 plot_v1
* u11  out2 plot_v1
* u8  out3 plot_v1
* u12  out4 plot_v1
* u2  in1 plot_v1
* u3  in2 plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ graycounter
* u5  in1 in2 in3 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u6  net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ out1 out2 out3 out4 out5 out6 out7 out8 dac_bridge_8
v3  in3 earth pulse(0 10 10u 10u 10u 9m 10m)
* u4  in3 plot_v1
r5  out5 earth esim_r
r6  out6 earth esim_r
r7  out7 earth esim_r
r8  out8 earth esim_r
* u9  out5 plot_v1
* u13  out6 plot_v1
* u10  out7 plot_v1
* u14  out8 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] u1
a2 [in1 in2 in3 ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u5
a3 [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] [out1 out2 out3 out4 out5 out6 out7 out8 ] u6
* Schematic Name:                             graycounter, NgSpice Name: graycounter
.model u1 graycounter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 5e-03 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(out2)
plot v(out3)
plot v(out4)
plot v(in1)
plot v(in2)
plot v(in3)
plot v(out5)
plot v(out6)
plot v(out7)
plot v(out8)
.endc
.end
