* c:\users\saisr\esim-workspace\esim_1\esim_1.cir

* u4  in1 in2 net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  in1 gnd pulse(0 10 10u 10u 10u 5m 10m)
r1  out1 gnd resistor
* u3  in1 plot_v1
r2  out2 gnd resistor
r3  out3 gnd resistor
r4  out4 gnd resistor
v2  in2 gnd pulse(0 10 10u 10u 10u 1m 1)
* u2  in2 plot_v1
* u10  out1 plot_v1
* u7  out2 plot_v1
* u11  out3 plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ lfsr
* u5  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ out1 out2 out3 out4 dac_bridge_4
a1 [in1 in2 ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
a3 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [out1 out2 out3 out4 ] u5
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             lfsr, NgSpice Name: lfsr
.model u1 lfsr(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 500e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out1)
plot v(out2)
plot v(out3)
.endc
.end
